US07241798B2
[2-Phenyl-3-(toluene-4-sulfonyl)-3-aza-bicyclo[3.1.0]hex-1-yl]-methanol
To a flask containing racemic Intermediate 15, one enantiomer being [(S)-2-phenyl-1-(toluene-4-sulfonyl)-2,5-dihydro-1H-pyrrol-3-yl]-methanol (19.0 g, 57.8 mmol), and methylene chloride (190 mL) at 0° C. and under nitrogen was added diethyl zinc (1.1M/toluene, 57.8 mL, 63.5 mmol) all at once via syringe. The reaction was stirred for twenty minutes and iodine (14.7 g, 57.7 mmol), another portion of diethyl zinc (1.1M/toluene, 57.7 mL, 63.5 mmol), and chloroiodomethane (8.8 mL, 121.3 mmol) were added in quick succession. The reaction was stirred at 0° C. for 3 hours at which point there was much white precipitate present. GC-MS analysis of an aliquot showed no product at this point. The nitrogen inlet was removed and replaced with a CaSO4 drying tube, a third portion of diethyl zinc (1.1M/toluene, 2.0 mL, 1.8 mmol) was added, and the reaction allowed to stir at room temperature overnight. GC-MS analysis of an aliquot showed complete conversion to product. The reaction was diluted with saturated ammonium chloride solution and the phases were separated. The organics were washed with brine, dried with sodium sulfate, filtered, and concentrated to give the title compound as a thick oil (19.4 g, 98%).

reactant | [(S)-2-phenyl-1-(toluene-4-sulfonyl)-2,5-dihydro-1H-pyrrol-3-yl]-methanol | 57.8 mmol, 19.0 g | C1(=CC=CC=C1)[C@@H]1N(CC=C1CO)S(=O)(=O)C1=CC=C(C=C1)C | C18H19NO3S
reactant | diethyl zinc | 63.5 mmol, 1.1M, 57.8 mL | C(C)[Zn]CC
reactant | iodine | 57.7 mmol, 14.7 g | II | I2
reactant | diethyl zinc | 63.5 mmol, 1.1M, 57.7 mL | C(C)[Zn]CC
reactant | chloroiodomethane | 121.3 mmol, 8.8 mL | ClCI | CH2ClI
solvent | ammonium chloride | [Cl-].[NH4+]
catalyst | diethyl zinc | 1.8 mmol, 1.1M, 2.0 mL | C(C)[Zn]CC
solvent | methylene chloride | 190 mL | C(Cl)Cl | CH2Cl2
product | [2-Phenyl-3-(toluene-4-sulfonyl)-3-aza-bicyclo[3.1.0]hex-1-yl]-methanol | 19.4 g, 98% | C1(=CC=CC=C1)C1C2(CC2CN1S(=O)(=O)C1=CC=C(C=C1)C)CO | C19H21NO3S
